US07384950B2
a) Ethyl methyl 2-methyl-5-(N,N-methylethylamino)-thiophene-3,4-dicarboxylate
Ethoxycarbonylmethylene triphenyl phosphorane (33.8 g) in dry THF (200 ml) was treated with isopropyl isothiocyanate (10.1 g) at 65° C. for 16 h under nitrogen. The mixture was cooled to −78° C. and methyl 3-bromo-2-oxo-butanoate was added. The reaction was allowed to warm slowly to room temperature. After 24 h at room temperature more methyl 3-bromo-2-oxo-butanoate (2.8 g) was added and the mixture was warmed to 60° C. for 16 h. The cooled reaction was poured into water (1.5 L) and extracted into ether. Drying and evaporation gave an oil which was chromatographed (SiO2/10:1 isohexane-ethyl acetate then 5:1 isohexane-ethyl acetate) to afford the subtitle compound (23.5 g). δ 1HCDCl3 1.23-1.35 (9H, m), 2.26 (3H,s), 3.46 (1H, m), 3.82 (3H, s), 4.2 (2H, q), 7.42 (1H, br.s)

reactant | Ethoxycarbonylmethylene triphenyl phosphorane | 33.8 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | isopropyl isothiocyanate | 10.1 g | C(C)(C)N=C=S | C4H7NS
reactant | methyl 3-bromo-2-oxo-butanoate | BrC(C(C(=O)OC)=O)C | C5H7BrO3
reactant | methyl 3-bromo-2-oxo-butanoate | 2.8 g | BrC(C(C(=O)OC)=O)C | C5H7BrO3
reactant | water | 1.5 L | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | isohexane ethyl acetate | CCCC(C)C.C(C)(=O)OCC | InChI=1S/C6H14.C4H8O2/c1-4-5-6(2)3;1-3-6-4(2)5/h6H,4-5H2,1-3H3;3H2,1-2H3
